US07067667B2
7-Acetoxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 560 mg (2.4 mmol) of 7-hydroxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 10 ml of pyridine is stirred with 5 ml of acetic anhydride for 24 hours at room temperature. The batch is concentrated by evaporation in a vacuum and purified by column chromatography on silica gel with hexane-ethyl acetate: 500 mg of product.

reactant | 7-hydroxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 2.4 mmol, 560 mg | OCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C14H17NO2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | C(C)(=O)OCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C16H19NO3
